US09227978B2
Ethyl 2-((4,5-dichloro-2-hydroxyphenyl)amino)acetate
To a solution of 2-amino-4,5-dichlorophenol (2.0 g, 11.3 mmol) and ethyl-2-oxoacetate (2.26 g, 12.42 mmol) in DCM (50 mL) at room temperature, AcOH (1 mL) was added and the resulting mixture was stirred for 1 h. To this mixture, NaBH(OAc)3 (7.2 g, 33.9 mmol) was added and then stirred for 16 h. The mixture was concentrated in vacuo and the residue was suspended in DCM. The mixture was filtered through a pad of Celite and the filtrate was washed with brine. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=10:1) to afford the desired product (2.4 g, 81% yield) as a solid.

reactant | 2-amino-4,5-dichlorophenol | 11.3 mmol, 2.0 g | NC1=C(C=C(C(=C1)Cl)Cl)O | C6H5Cl2NO
reactant | ethyl-2-oxoacetate | 12.42 mmol, 2.26 g | C(C)OC(C=O)=O | C4H6O3
reactant | AcOH | 1 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 33.9 mmol, 7.2 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-((4,5-dichloro-2-hydroxyphenyl)amino)acetate | 2.4 g, 81% yield | ClC1=CC(=C(C=C1Cl)NCC(=O)OCC)O | C10H11Cl2NO3
